US04026900
3-(4-Pyridinyl)-2-cyclohexen-1-one is obtained by modifying the procedure described in Example B-1 as follows: Ethyl isonicotinoylacetate and methyl vinyl ketone are reacted as in Example B-1 to yield ethyl 2-(isonicotinoyl)-5-oxohexanoate which is then reacted with 35% aqueous sodium hydroxide solution at 25°-30° C. to produce ethyl 3-(4-pyridinyl)-2-cyclohexen-1-one-4-carboxylate and the 4-carboxylate is heated with aqueous sulfuric acid at 95° C. until the evolution of carbon dioxide ceases, thereby producing 3-(4-pyridinyl)-2-cyclohexen-1-one.

reactant | Ethyl isonicotinoylacetate | C(C1=CC=NC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | ethyl 2-(isonicotinoyl)-5-oxohexanoate | C(C1=CC=NC=C1)(=O)C(C(=O)OCC)CCC(C)=O | C14H17NO4
